US05162350
6-Benzoylbenzothiazolinone
To a solution of 0.04 mol of benzothiazolinone in 150 g of polyphosphoric acid there is slowly added, with agitation, 0.05 mol of benzoic acid. The reaction medium is heated to 130° C. for 4 hours. After cooling, the mixture is hydrolyzed in 10 volumes of ice-cold water.

reactant | benzothiazolinone | 0.04 mol | S1(C=NC2=C1C=CC=C2)=O | C7H5NOS
reactant | benzoic acid | 0.05 mol | C(C1=CC=CC=C1)(=O)O | C7H6O2
product | 6-Benzoylbenzothiazolinone | C(C1=CC=CC=C1)(=O)C1=CC2=C(N=CS2=O)C=C1 | C14H9NO2S
